US05623073
STEP A: 2-(2-Hydroxyethylamino)-1-phenacylbenzimidazole dihydrobromide
Heat at reflux for three hours 8.95 g (50 mmol) of 2-(2-hydroxyethylamino)benzimidazole and 10 g of phenacyl bromide in 100 ml of 2-propanol. Allow to cool. Suction-filter the resulting precipitate and wash with acetone. The title compound is obtained.

reactant | 2-(2-hydroxyethylamino)benzimidazole | 50 mmol, 8.95 g | OCCNC=1NC2=C(N1)C=CC=C2 | C9H11N3O
reactant | phenacyl bromide | 10 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 2-(2-Hydroxyethylamino)-1-phenacylbenzimidazole dihydrobromide | Yield: 89% | Br.Br.OCCNC1=NC2=C(N1CC(=O)C1=CC=CC=C1)C=CC=C2 | InChI=1S/C17H17N3O2.2BrH/c21-11-10-18-17-19-14-8-4-5-9-15(14)20(17)12-16(22)13-6-2-1-3-7-13;;/h1-9,21H,10-12H2,(H,18,19);2*1H
